US06313312B1
N-(3-{3-[3-(3,4-Dichlorophenyl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of 3(3,4-dichlorophenyl)propanoic acid (35 mg, 0.16 mmol) in N,N-dimethylfonnarnide (4 ml) was added 1-hydroxybenzotriazole monohydrate (26 mg, 0.17 mmol) and 1-(3dimethylaminopropyl)-3ethylcarbodiimide hydrochloride (44 mg, 0.23 mmol). After stirring at room temperature for 5 min the mixture was treated with the hydrochloride salt of N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl)methanesulfonamide (Peparation 53, 52 mg, 0.17 mmol) and triethylarnine (33 mg, 0.33 mmol). The reaction mixture was stirred at room temperature for 72 h before concentrating in vacuo. Water (10 ml) was added and the reaction mixture was extracted with ethyl acetate (2×15 ml). The combined organic extracts were washed with water (10 ml) and saturated brine (10 ml), dried (Na2SO4), filtered and concentrated in vacuo to give a light brown oil. The residue was purified by chromatography using a Sep-Pak™ cartridge packed with silica gel (10 g) eluting with dichloromethane:ethanol:0.88 amnionia (300:8:1) to afford the title compound as a white foam (38 mg, 51%).

reactant | 3(3,4-dichlorophenyl)propanoic acid | 0.16 mmol, 35 mg | ClC=1C=C(C=CC1Cl)CCC(=O)O | C9H8Cl2O2
reactant | 1-hydroxybenzotriazole monohydrate | 0.17 mmol, 26 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3dimethylaminopropyl)-3ethylcarbodiimide hydrochloride | 0.23 mmol, 44 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl)methanesulfonamide | 0.17 mmol, 52 mg | CC1(C2CNCC12)C=1C=C(C=CC1)NS(=O)(=O)C | C13H18N2O2S
reactant | triethylarnine | 0.33 mmol, 33 mg | C(C)N(CC)CC | C6H15N
product | N-(3-{3-[3-(3,4-Dichlorophenyl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 38 mg, 51% | ClC=1C=C(C=CC1Cl)CCC(=O)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C22H24Cl2N2O3S
